US07723331B2
c) 6-(4-chlorophenyl)-3-{3-[(1-methylpiperidin-4-yl)oxy]benzyl}thieno[3,2-d]pyrimidin-4(3H)-one
5-(4-Chloro-phenyl)-3-(dimethylamino-methyleneamino)-thiophene-2-carboxylic acid methyl ester (0.100 g, 0.310 mmol), 3-(1-methyl-piperidin-4-yloxy)-benzylamine (0.109 g, 0.370 mmol) and phenol (1.0 g) were stirred at 130° C. for 2 hours. The reaction mixture was allowed to cool to r.t. and the product was partially purified by flash chromatography using a gradient elution with n-heptane against MeOH/TEA. The fractions containing the title product were concentrated in vacuo and purified further by washing with MeOH to give the title compound. Yield: 0.052 g (36%). 1H NMR (400 MHz, CDCl3) δ 8.08 (s, 1H), 7.61 (d, 2H, J=8.52 Hz), 7.45 (s, 1H), 7.41 (d, 2H, J=8.52 Hz), 7.24 (m, 1H), 6.89 (m, 2H), 6.83 (d, 1H, J=9.02 Hz), 5.16 (s, 2H), 4.29 (bs, 1H), 2.65 (bs, 2H), 2.21-2.31 (m, 5H), 1.95 (m, 2H), 1.79 (m, 2H). MS (ESI+) 465.93 (M+1H+).

reactant | 5-(4-Chloro-phenyl)-3-(dimethylamino-methyleneamino)-thiophene-2-carboxylic acid methyl ester | 0.310 mmol, 0.100 g | COC(=O)C=1SC(=CC1N=CN(C)C)C1=CC=C(C=C1)Cl | C15H15ClN2O2S
reactant | 3-(1-methyl-piperidin-4-yloxy)-benzylamine | 0.370 mmol, 0.109 g | CN1CCC(CC1)OC=1C=C(CN)C=CC1 | C13H20N2O
reactant | phenol | 1.0 g | C1(=CC=CC=C1)O | C6H6O
product | 6-(4-chlorophenyl)-3-{3-[(1-methylpiperidin-4-yl)oxy]benzyl}thieno[3,2-d]pyrimidin-4(3H)-one | ClC1=CC=C(C=C1)C1=CC=2N=CN(C(C2S1)=O)CC1=CC(=CC=C1)OC1CCN(CC1)C | C25H24ClN3O2S
